US05403843
To a DMF solution of 4-[2-(2,4-diamino-7H-pyrrolo [2,3-d]pyrimidin-5-yl)ethyl]benzoic acid (1.52 g) and methyl ester of N(δ)-t-butyloxycarbonyl-L-ornithine (1.3 g) was added diethyl cyanophosphate (1.4 g). The mixture was stirred for one hour at room temperature in the presence of triethylamine (3.0 g). The reaction mixture was concentrated under reduced pressure. The concentrate was purified by column chromatography on silica gel (carrier: 30 g; chloroform:ethanol containing 1% ammonium=20:1-15:1) to afford methyl N(α)-[4-[2-(2,4-diamino-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-N-(δ)-(t-butyloxycarbonyl)-L-ornithinate (2.30 g; yield 85%).

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-[2-(2,4-diamino-7H-pyrrolo [2,3-d]pyrimidin-5-yl)ethyl]benzoic acid | 1.52 g | NC=1N=C(C2=C(N1)NC=C2CCC2=CC=C(C(=O)O)C=C2)N | C15H15N5O2
reactant | N(δ)-t-butyloxycarbonyl-L-ornithine | 1.3 g | C(C)(C)(C)OC(=O)NCCC[C@H](N)C(=O)O | C10H20N2O4
reactant | diethyl cyanophosphate | 1.4 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
product | methyl N(α)-[4-[2-(2,4-diamino-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-N-(δ)-(t-butyloxycarbonyl)-L-ornithinate | 2.30 g, yield 85% | NC=1N=C(C2=C(N1)NC=C2CCC2=CC=C(C(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)OC)C=C2)N | C26H35N7O5
